US08133886B2
Step 15.3: 6-(2-Bromomethyl-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid methyl ester
A solution of 8.55 g (29.05 mMol) 6-(2-methyl-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid methyl ester, 13.5 g N-bromo-succinimide (95%; 72.6 mMol) and 3.31 g (20 mMol) α,α-azoisobytyronitrile in 1.85 l CCl4 is heated to 80° C. and irradiated (125 W lamp) for 2 days. Then 5.44 g N-bromo-succinimide and 1.66 g α,α-azoisobytyronitrile are added and irradiation at 80° C. is continued for another day. The reaction mixture is concentrated, the residue re-dissolved in EtOAc and water, the aq. layer separated off and extracted with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated. Column chromatography (SiO2; hexane/EtOAc 1:1) gives the title compound: MS: [M+1]+=373/375; TLC(hexane/EtOAc 1:1): Rf=0.35.

reactant | 6-(2-methyl-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid methyl ester | 29.05 mMol, 8.55 g | COC(=O)C1=CC=CC2=CC(=CC=C12)OC1=NC(=NC=C1)C | C17H14N2O3
reactant | N-bromo-succinimide | 72.6 mMol, 13.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromo-succinimide | 5.44 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 1.85 l | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-(2-Bromomethyl-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid methyl ester | COC(=O)C1=CC=CC2=CC(=CC=C12)OC1=NC(=NC=C1)CBr | C17H13BrN2O3
